US04695575
A mixture of 2 parts of ethyl 4-[[1-(4-thiazolylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinecarboxylate and 30 parts of a hydrobromic acid solution 48% was stirred and refluxed for 15 minutes. The reaction mixture was evaporated. The oily residue was crystallized from a mixture of ethanol and 2-propanone, yielding 2 parts of 2-(4-piperidinylmethyl)-1-(4-thiazolylmethyl)-1H-benzimidazole trihydrobromide; mp. 208.3°-226.3° C. (72).

reactant | ethyl 4-[[1-(4-thiazolylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinecarboxylate | S1C=NC(=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)C(=O)OCC | C20H24N4O2S
reactant | hydrobromic acid | Br | BrH
product | 2-(4-piperidinylmethyl)-1-(4-thiazolylmethyl)-1H-benzimidazole trihydrobromide | Br.Br.Br.N1CCC(CC1)CC1=NC2=C(N1CC=1N=CSC1)C=CC=C2 | InChI=1S/C17H20N4S.3BrH/c1-2-4-16-15(3-1)20-17(9-13-5-7-18-8-6-13)21(16)10-14-11-22-12-19-14;;;/h1-4,11-13,18H,5-10H2;3*1H
